US08314147B2
{4-[({2-chloro-5-[(phenylmethyl)amino]phenyl}carbonyl)amino]phenyl}acetic Acid
A solution of ethyl {4-[({2-chloro-5-[(phenylmethyl)amino]phenyl}carbonyl)amino]phenyl}acetate (90 mg, 0.21 mmol) in acetic acid (2 ml) and 2M HCl (2 ml) was heated at 90° C. for 2 hours. On cooling water was added then solvent evaporated in vacuo and azeotroped with toluene. The residue was purified by MDAP to afford the title compound as a white solid (40 mg). MS (ES+) m/z 395 [M+H]+ (C22H1935ClN2O3). 1H-NMR (400 MHz, d6-DMSO) δ 3.51 (2H, s), 4.30 (2H, d, J 4.4), 6.63-6.73 (3H, m), 7.15-7.36 (10H, m), 10.3 (1H, s).

reactant | ethyl {4-[({2-chloro-5-[(phenylmethyl)amino]phenyl}carbonyl)amino]phenyl}acetate | 0.21 mmol, 90 mg | ClC1=C(C=C(C=C1)NCC1=CC=CC=C1)C(=O)NC1=CC=C(C=C1)CC(=O)OCC | C24H23ClN2O3
reactant | water | O | H2O
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
solvent | HCl | 2M, 2 ml | Cl | ClH
product | {4-[({2-chloro-5-[(phenylmethyl)amino]phenyl}carbonyl)amino]phenyl}acetic Acid | 40 mg | ClC1=C(C=C(C=C1)NCC1=CC=CC=C1)C(=O)NC1=CC=C(C=C1)CC(=O)O | C22H19ClN2O3
